US04489084
A solution of α-bromoacetophenone (19.9 g) and acetylsemicarbazide (10.7 g) in ethanol (300 ml), containing 1N hydrochloric acid (1 ml), was refluxed for thirty hours. The solvent was removed in vacuo and the residue was crystallized from ether-ethanol to give 2-hydrazino-4-phenyloxazole hydrochloride. This salt was suspended in an aqueous solution of 10% ammonium hydroxide to give 2-hydrazino-4-phenyloxazole, m.p. 158°-160° C.

reactant | α-bromoacetophenone | 19.9 g | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
reactant | acetylsemicarbazide | 10.7 g | C(C)(=O)NNC(=O)N | C3H7N3O2
reactant | hydrochloric acid | 1N, 1 ml | Cl | ClH
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 2-hydrazino-4-phenyloxazole hydrochloride | Cl.N(N)C=1OC=C(N1)C1=CC=CC=C1 | InChI=1S/C9H9N3O.ClH/c10-12-9-11-8(6-13-9)7-4-2-1-3-5-7;/h1-6H,10H2,(H,11,12);1H
